US09382356B2
(ii) Synthesis of 3,6-di-tert-butyl-2,7-diphenyl-fluorene
Under a nitrogen atmosphere, 120 mL of anhydrous DME was added to 8.15 g (18.7 mmol) of 2,7-dibromo-3,6-di-tert-butylfluorene and 1.08 g (0.93 mmol) of Pd(PPh3), and the mixture was stirred at room temperature for 20 minutes. To this solution, 20 mL of an ethanol solution in which 5.01 g (41.1 mmol) of phenylboric acid was dissolved was added. The flask that had contained the phenylboric acid was washed two times with 4 mL of ethanol, and this was also added to the solution. The mixture was then stirred at room temperature for 20 minutes. Thereafter, 37.4 mL (74.8 mmol) of a 2.0 mol/L aqueous solution of sodium carbonate was added. Subsequently, the mixture was heated to reflux for 18 hours, and left to be naturally cooled, and the reaction was terminated with 1N hydrochloric acid in an ice bath. Thereafter, ether was added to extract the soluble fraction, and the aqueous layer was subjected to extraction with diethyl ether twice. The resultant extract was then combined with the organic layer obtained earlier. The resulting liquid was washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and then dried over magnesium sulfate. The solvent was distilled off, and the residue was subjected to separation by silica gel chromatography. To the thus obtained whitish yellow powder, a mixture solution of hexane and a small amount of dichloromethane was added, and the mixture was heated to 60° C. to dissolve the powder completely. The resultant solution was left to stand for 1 hour at room temperature and then left to stand for 13 hours at −20° C. Crystals precipitated were washed 3 times with 10 mL of hexane to give a target product as a white powder (yield 4.36 g (54%)).

reactant | DME | 120 mL | COCCOC | C4H10O2
reactant | 2,7-dibromo-3,6-di-tert-butylfluorene | 18.7 mmol, 8.15 g | BrC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)Br | C21H24Br2
reactant | phenylboric acid | 41.1 mmol, 5.01 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3,6-di-tert-butyl-2,7-diphenyl-fluorene | yield 4.36 g, 54% | C(C)(C)(C)C=1C(=CC=2CC3=CC(=C(C=C3C2C1)C(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C33H34
